*
C1 N637 N636 1µ
C2 N638 N637 2µ
C3 N639 N638 3µ
C4 N640 N639 4µ
C5 N641 N640 5µ
R1 N636 N495 100
C6 N642 N641 1µ
C7 N643 N642 2µ
C8 N644 N643 3µ
C9 N645 N644 4µ
C10 0 N645 5µ
V1 0 N001 SINE(0 20 1k)
C11 N624 N625 1µ
C12 N623 N624 2µ
C13 N622 N623 3µ
C14 N621 N622 4µ
C15 N620 N621 5µ
R2 N625 0 100
C16 N619 N620 1µ
C17 N618 N619 2µ
C18 N617 N618 3µ
C19 N616 N617 4µ
C20 N495 N616 5µ
C21 N597 N596 1µ
C22 N598 N597 2µ
C23 N599 N598 3µ
C24 N600 N599 4µ
C25 N601 N600 5µ
R3 N596 N495 100
C26 N602 N601 1µ
C27 N603 N602 2µ
C28 N604 N603 3µ
C29 N605 N604 4µ
C30 0 N605 5µ
C31 N584 N585 1µ
C32 N583 N584 2µ
C33 N582 N583 3µ
C34 N581 N582 4µ
C35 N580 N581 5µ
R4 N585 0 100
C36 N579 N580 1µ
C37 N578 N579 2µ
C38 N577 N578 3µ
C39 N576 N577 4µ
C40 N495 N576 5µ
C41 N557 N556 1µ
C42 N558 N557 2µ
C43 N559 N558 3µ
C44 N560 N559 4µ
C45 N561 N560 5µ
R5 N556 N495 100
C46 N562 N561 1µ
C47 N563 N562 2µ
C48 N564 N563 3µ
C49 N565 N564 4µ
C50 0 N565 5µ
C51 N544 N545 1µ
C52 N543 N544 2µ
C53 N542 N543 3µ
C54 N541 N542 4µ
C55 N540 N541 5µ
R6 N545 0 100
C56 N539 N540 1µ
C57 N538 N539 2µ
C58 N537 N538 3µ
C59 N536 N537 4µ
C60 N495 N536 5µ
C61 N517 N516 1µ
C62 N518 N517 2µ
C63 N519 N518 3µ
C64 N520 N519 4µ
C65 N521 N520 5µ
R7 N516 N495 100
C66 N522 N521 1µ
C67 N523 N522 2µ
C68 N524 N523 3µ
C69 N525 N524 4µ
C70 0 N525 5µ
C71 N504 N505 1µ
C72 N503 N504 2µ
C73 N502 N503 3µ
C74 N501 N502 4µ
C75 N500 N501 5µ
R8 N505 0 100
C76 N499 N500 1µ
C77 N498 N499 2µ
C78 N497 N498 3µ
C79 N496 N497 4µ
C80 N495 N496 5µ
C81 N627 N626 1µ
C82 N628 N627 2µ
C83 N629 N628 3µ
C84 N630 N629 4µ
C85 N631 N630 5µ
R9 N626 N001 100
C86 N632 N631 1µ
C87 N633 N632 2µ
C88 N634 N633 3µ
C89 N635 N634 4µ
C90 N495 N635 5µ
C91 N614 N615 1µ
C92 N613 N614 2µ
C93 N612 N613 3µ
C94 N611 N612 4µ
C95 N610 N611 5µ
R10 N615 N495 100
C96 N609 N610 1µ
C97 N608 N609 2µ
C98 N607 N608 3µ
C99 N606 N607 4µ
C100 N001 N606 5µ
C101 N587 N586 1µ
C102 N588 N587 2µ
C103 N589 N588 3µ
C104 N590 N589 4µ
C105 N591 N590 5µ
R11 N586 N001 100
C106 N592 N591 1µ
C107 N593 N592 2µ
C108 N594 N593 3µ
C109 N595 N594 4µ
C110 N495 N595 5µ
C111 N574 N575 1µ
C112 N573 N574 2µ
C113 N572 N573 3µ
C114 N571 N572 4µ
C115 N570 N571 5µ
R12 N575 N495 100
C116 N569 N570 1µ
C117 N568 N569 2µ
C118 N567 N568 3µ
C119 N566 N567 4µ
C120 N001 N566 5µ
C121 N547 N546 1µ
C122 N548 N547 2µ
C123 N549 N548 3µ
C124 N550 N549 4µ
C125 N551 N550 5µ
R13 N546 N001 100
C126 N552 N551 1µ
C127 N553 N552 2µ
C128 N554 N553 3µ
C129 N555 N554 4µ
C130 N495 N555 5µ
C131 N534 N535 1µ
C132 N533 N534 2µ
C133 N532 N533 3µ
C134 N531 N532 4µ
C135 N530 N531 5µ
R14 N535 N495 100
C136 N529 N530 1µ
C137 N528 N529 2µ
C138 N527 N528 3µ
C139 N526 N527 4µ
C140 N001 N526 5µ
C141 N507 N506 1µ
C142 N508 N507 2µ
C143 N509 N508 3µ
C144 N510 N509 4µ
C145 N511 N510 5µ
R15 N506 N001 100
C146 N512 N511 1µ
C147 N513 N512 2µ
C148 N514 N513 3µ
C149 N515 N514 4µ
C150 N495 N515 5µ
C151 N493 N494 1µ
C152 N492 N493 2µ
C153 N491 N492 3µ
C154 N490 N491 4µ
C155 N489 N490 5µ
R16 N494 N495 100
C156 N488 N489 1µ
C157 N487 N488 2µ
C158 N486 N487 3µ
C159 N485 N486 4µ
C160 N001 N485 5µ
C161 N476 N475 1µ
C162 N477 N476 2µ
C163 N478 N477 3µ
C164 N479 N478 4µ
C165 N480 N479 5µ
R17 N475 N334 100
C166 N481 N480 1µ
C167 N482 N481 2µ
C168 N483 N482 3µ
C169 N484 N483 4µ
C170 0 N484 5µ
C171 N463 N464 1µ
C172 N462 N463 2µ
C173 N461 N462 3µ
C174 N460 N461 4µ
C175 N459 N460 5µ
R18 N464 0 100
C176 N458 N459 1µ
C177 N457 N458 2µ
C178 N456 N457 3µ
C179 N455 N456 4µ
C180 N334 N455 5µ
C181 N436 N435 1µ
C182 N437 N436 2µ
C183 N438 N437 3µ
C184 N439 N438 4µ
C185 N440 N439 5µ
R19 N435 N334 100
C186 N441 N440 1µ
C187 N442 N441 2µ
C188 N443 N442 3µ
C189 N444 N443 4µ
C190 0 N444 5µ
C191 N423 N424 1µ
C192 N422 N423 2µ
C193 N421 N422 3µ
C194 N420 N421 4µ
C195 N419 N420 5µ
R20 N424 0 100
C196 N418 N419 1µ
C197 N417 N418 2µ
C198 N416 N417 3µ
C199 N415 N416 4µ
C200 N334 N415 5µ
C201 N396 N395 1µ
C202 N397 N396 2µ
C203 N398 N397 3µ
C204 N399 N398 4µ
C205 N400 N399 5µ
R21 N395 N334 100
C206 N401 N400 1µ
C207 N402 N401 2µ
C208 N403 N402 3µ
C209 N404 N403 4µ
C210 0 N404 5µ
C211 N383 N384 1µ
C212 N382 N383 2µ
C213 N381 N382 3µ
C214 N380 N381 4µ
C215 N379 N380 5µ
R22 N384 0 100
C216 N378 N379 1µ
C217 N377 N378 2µ
C218 N376 N377 3µ
C219 N375 N376 4µ
C220 N334 N375 5µ
C221 N356 N355 1µ
C222 N357 N356 2µ
C223 N358 N357 3µ
C224 N359 N358 4µ
C225 N360 N359 5µ
R23 N355 N334 100
C226 N361 N360 1µ
C227 N362 N361 2µ
C228 N363 N362 3µ
C229 N364 N363 4µ
C230 0 N364 5µ
C231 N343 N344 1µ
C232 N342 N343 2µ
C233 N341 N342 3µ
C234 N340 N341 4µ
C235 N339 N340 5µ
R24 N344 0 100
C236 N338 N339 1µ
C237 N337 N338 2µ
C238 N336 N337 3µ
C239 N335 N336 4µ
C240 N334 N335 5µ
C241 N466 N465 1µ
C242 N467 N466 2µ
C243 N468 N467 3µ
C244 N469 N468 4µ
C245 N470 N469 5µ
R25 N465 N001 100
C246 N471 N470 1µ
C247 N472 N471 2µ
C248 N473 N472 3µ
C249 N474 N473 4µ
C250 N334 N474 5µ
C251 N453 N454 1µ
C252 N452 N453 2µ
C253 N451 N452 3µ
C254 N450 N451 4µ
C255 N449 N450 5µ
R26 N454 N334 100
C256 N448 N449 1µ
C257 N447 N448 2µ
C258 N446 N447 3µ
C259 N445 N446 4µ
C260 N001 N445 5µ
C261 N426 N425 1µ
C262 N427 N426 2µ
C263 N428 N427 3µ
C264 N429 N428 4µ
C265 N430 N429 5µ
R27 N425 N001 100
C266 N431 N430 1µ
C267 N432 N431 2µ
C268 N433 N432 3µ
C269 N434 N433 4µ
C270 N334 N434 5µ
C271 N413 N414 1µ
C272 N412 N413 2µ
C273 N411 N412 3µ
C274 N410 N411 4µ
C275 N409 N410 5µ
R28 N414 N334 100
C276 N408 N409 1µ
C277 N407 N408 2µ
C278 N406 N407 3µ
C279 N405 N406 4µ
C280 N001 N405 5µ
C281 N386 N385 1µ
C282 N387 N386 2µ
C283 N388 N387 3µ
C284 N389 N388 4µ
C285 N390 N389 5µ
R29 N385 N001 100
C286 N391 N390 1µ
C287 N392 N391 2µ
C288 N393 N392 3µ
C289 N394 N393 4µ
C290 N334 N394 5µ
C291 N373 N374 1µ
C292 N372 N373 2µ
C293 N371 N372 3µ
C294 N370 N371 4µ
C295 N369 N370 5µ
R30 N374 N334 100
C296 N368 N369 1µ
C297 N367 N368 2µ
C298 N366 N367 3µ
C299 N365 N366 4µ
C300 N001 N365 5µ
C301 N346 N345 1µ
C302 N347 N346 2µ
C303 N348 N347 3µ
C304 N349 N348 4µ
C305 N350 N349 5µ
R31 N345 N001 100
C306 N351 N350 1µ
C307 N352 N351 2µ
C308 N353 N352 3µ
C309 N354 N353 4µ
C310 N334 N354 5µ
C311 N332 N333 1µ
C312 N331 N332 2µ
C313 N330 N331 3µ
C314 N329 N330 4µ
C315 N328 N329 5µ
R32 N333 N334 100
C316 N327 N328 1µ
C317 N326 N327 2µ
C318 N325 N326 3µ
C319 N324 N325 4µ
C320 N001 N324 5µ
C321 N315 N314 1µ
C322 N316 N315 2µ
C323 N317 N316 3µ
C324 N318 N317 4µ
C325 N319 N318 5µ
R33 N314 N173 100
C326 N320 N319 1µ
C327 N321 N320 2µ
C328 N322 N321 3µ
C329 N323 N322 4µ
C330 0 N323 5µ
C331 N302 N303 1µ
C332 N301 N302 2µ
C333 N300 N301 3µ
C334 N299 N300 4µ
C335 N298 N299 5µ
R34 N303 0 100
C336 N297 N298 1µ
C337 N296 N297 2µ
C338 N295 N296 3µ
C339 N294 N295 4µ
C340 N173 N294 5µ
C341 N275 N274 1µ
C342 N276 N275 2µ
C343 N277 N276 3µ
C344 N278 N277 4µ
C345 N279 N278 5µ
R35 N274 N173 100
C346 N280 N279 1µ
C347 N281 N280 2µ
C348 N282 N281 3µ
C349 N283 N282 4µ
C350 0 N283 5µ
C351 N262 N263 1µ
C352 N261 N262 2µ
C353 N260 N261 3µ
C354 N259 N260 4µ
C355 N258 N259 5µ
R36 N263 0 100
C356 N257 N258 1µ
C357 N256 N257 2µ
C358 N255 N256 3µ
C359 N254 N255 4µ
C360 N173 N254 5µ
C361 N235 N234 1µ
C362 N236 N235 2µ
C363 N237 N236 3µ
C364 N238 N237 4µ
C365 N239 N238 5µ
R37 N234 N173 100
C366 N240 N239 1µ
C367 N241 N240 2µ
C368 N242 N241 3µ
C369 N243 N242 4µ
C370 0 N243 5µ
C371 N222 N223 1µ
C372 N221 N222 2µ
C373 N220 N221 3µ
C374 N219 N220 4µ
C375 N218 N219 5µ
R38 N223 0 100
C376 N217 N218 1µ
C377 N216 N217 2µ
C378 N215 N216 3µ
C379 N214 N215 4µ
C380 N173 N214 5µ
C381 N195 N194 1µ
C382 N196 N195 2µ
C383 N197 N196 3µ
C384 N198 N197 4µ
C385 N199 N198 5µ
R39 N194 N173 100
C386 N200 N199 1µ
C387 N201 N200 2µ
C388 N202 N201 3µ
C389 N203 N202 4µ
C390 0 N203 5µ
C391 N182 N183 1µ
C392 N181 N182 2µ
C393 N180 N181 3µ
C394 N179 N180 4µ
C395 N178 N179 5µ
R40 N183 0 100
C396 N177 N178 1µ
C397 N176 N177 2µ
C398 N175 N176 3µ
C399 N174 N175 4µ
C400 N173 N174 5µ
C401 N305 N304 1µ
C402 N306 N305 2µ
C403 N307 N306 3µ
C404 N308 N307 4µ
C405 N309 N308 5µ
R41 N304 N001 100
C406 N310 N309 1µ
C407 N311 N310 2µ
C408 N312 N311 3µ
C409 N313 N312 4µ
C410 N173 N313 5µ
C411 N292 N293 1µ
C412 N291 N292 2µ
C413 N290 N291 3µ
C414 N289 N290 4µ
C415 N288 N289 5µ
R42 N293 N173 100
C416 N287 N288 1µ
C417 N286 N287 2µ
C418 N285 N286 3µ
C419 N284 N285 4µ
C420 N001 N284 5µ
C421 N265 N264 1µ
C422 N266 N265 2µ
C423 N267 N266 3µ
C424 N268 N267 4µ
C425 N269 N268 5µ
R43 N264 N001 100
C426 N270 N269 1µ
C427 N271 N270 2µ
C428 N272 N271 3µ
C429 N273 N272 4µ
C430 N173 N273 5µ
C431 N252 N253 1µ
C432 N251 N252 2µ
C433 N250 N251 3µ
C434 N249 N250 4µ
C435 N248 N249 5µ
R44 N253 N173 100
C436 N247 N248 1µ
C437 N246 N247 2µ
C438 N245 N246 3µ
C439 N244 N245 4µ
C440 N001 N244 5µ
C441 N225 N224 1µ
C442 N226 N225 2µ
C443 N227 N226 3µ
C444 N228 N227 4µ
C445 N229 N228 5µ
R45 N224 N001 100
C446 N230 N229 1µ
C447 N231 N230 2µ
C448 N232 N231 3µ
C449 N233 N232 4µ
C450 N173 N233 5µ
C451 N212 N213 1µ
C452 N211 N212 2µ
C453 N210 N211 3µ
C454 N209 N210 4µ
C455 N208 N209 5µ
R46 N213 N173 100
C456 N207 N208 1µ
C457 N206 N207 2µ
C458 N205 N206 3µ
C459 N204 N205 4µ
C460 N001 N204 5µ
C461 N185 N184 1µ
C462 N186 N185 2µ
C463 N187 N186 3µ
C464 N188 N187 4µ
C465 N189 N188 5µ
R47 N184 N001 100
C466 N190 N189 1µ
C467 N191 N190 2µ
C468 N192 N191 3µ
C469 N193 N192 4µ
C470 N173 N193 5µ
C471 N171 N172 1µ
C472 N170 N171 2µ
C473 N169 N170 3µ
C474 N168 N169 4µ
C475 N167 N168 5µ
R48 N172 N173 100
C476 N166 N167 1µ
C477 N165 N166 2µ
C478 N164 N165 3µ
C479 N163 N164 4µ
C480 N001 N163 5µ
C481 N154 N153 1µ
C482 N155 N154 2µ
C483 N156 N155 3µ
C484 N157 N156 4µ
C485 N158 N157 5µ
R49 N153 N012 100
C486 N159 N158 1µ
C487 N160 N159 2µ
C488 N161 N160 3µ
C489 N162 N161 4µ
C490 0 N162 5µ
C491 N141 N142 1µ
C492 N140 N141 2µ
C493 N139 N140 3µ
C494 N138 N139 4µ
C495 N137 N138 5µ
R50 N142 0 100
C496 N136 N137 1µ
C497 N135 N136 2µ
C498 N134 N135 3µ
C499 N133 N134 4µ
C500 N012 N133 5µ
C501 N114 N113 1µ
C502 N115 N114 2µ
C503 N116 N115 3µ
C504 N117 N116 4µ
C505 N118 N117 5µ
R51 N113 N012 100
C506 N119 N118 1µ
C507 N120 N119 2µ
C508 N121 N120 3µ
C509 N122 N121 4µ
C510 0 N122 5µ
C511 N101 N102 1µ
C512 N100 N101 2µ
C513 N099 N100 3µ
C514 N098 N099 4µ
C515 N097 N098 5µ
R52 N102 0 100
C516 N096 N097 1µ
C517 N095 N096 2µ
C518 N094 N095 3µ
C519 N093 N094 4µ
C520 N012 N093 5µ
C521 N074 N073 1µ
C522 N075 N074 2µ
C523 N076 N075 3µ
C524 N077 N076 4µ
C525 N078 N077 5µ
R53 N073 N012 100
C526 N079 N078 1µ
C527 N080 N079 2µ
C528 N081 N080 3µ
C529 N082 N081 4µ
C530 0 N082 5µ
C531 N061 N062 1µ
C532 N060 N061 2µ
C533 N059 N060 3µ
C534 N058 N059 4µ
C535 N057 N058 5µ
R54 N062 0 100
C536 N056 N057 1µ
C537 N055 N056 2µ
C538 N054 N055 3µ
C539 N053 N054 4µ
C540 N012 N053 5µ
C541 N034 N033 1µ
C542 N035 N034 2µ
C543 N036 N035 3µ
C544 N037 N036 4µ
C545 N038 N037 5µ
R55 N033 N012 100
C546 N039 N038 1µ
C547 N040 N039 2µ
C548 N041 N040 3µ
C549 N042 N041 4µ
C550 0 N042 5µ
C551 N021 N022 1µ
C552 N020 N021 2µ
C553 N019 N020 3µ
C554 N018 N019 4µ
C555 N017 N018 5µ
R56 N022 0 100
C556 N016 N017 1µ
C557 N015 N016 2µ
C558 N014 N015 3µ
C559 N013 N014 4µ
C560 N012 N013 5µ
C561 N144 N143 1µ
C562 N145 N144 2µ
C563 N146 N145 3µ
C564 N147 N146 4µ
C565 N148 N147 5µ
R57 N143 N001 100
C566 N149 N148 1µ
C567 N150 N149 2µ
C568 N151 N150 3µ
C569 N152 N151 4µ
C570 N012 N152 5µ
C571 N131 N132 1µ
C572 N130 N131 2µ
C573 N129 N130 3µ
C574 N128 N129 4µ
C575 N127 N128 5µ
R58 N132 N012 100
C576 N126 N127 1µ
C577 N125 N126 2µ
C578 N124 N125 3µ
C579 N123 N124 4µ
C580 N001 N123 5µ
C581 N104 N103 1µ
C582 N105 N104 2µ
C583 N106 N105 3µ
C584 N107 N106 4µ
C585 N108 N107 5µ
R59 N103 N001 100
C586 N109 N108 1µ
C587 N110 N109 2µ
C588 N111 N110 3µ
C589 N112 N111 4µ
C590 N012 N112 5µ
C591 N091 N092 1µ
C592 N090 N091 2µ
C593 N089 N090 3µ
C594 N088 N089 4µ
C595 N087 N088 5µ
R60 N092 N012 100
C596 N086 N087 1µ
C597 N085 N086 2µ
C598 N084 N085 3µ
C599 N083 N084 4µ
C600 N001 N083 5µ
C601 N064 N063 1µ
C602 N065 N064 2µ
C603 N066 N065 3µ
C604 N067 N066 4µ
C605 N068 N067 5µ
R61 N063 N001 100
C606 N069 N068 1µ
C607 N070 N069 2µ
C608 N071 N070 3µ
C609 N072 N071 4µ
C610 N012 N072 5µ
C611 N051 N052 1µ
C612 N050 N051 2µ
C613 N049 N050 3µ
C614 N048 N049 4µ
C615 N047 N048 5µ
R62 N052 N012 100
C616 N046 N047 1µ
C617 N045 N046 2µ
C618 N044 N045 3µ
C619 N043 N044 4µ
C620 N001 N043 5µ
C621 N024 N023 1µ
C622 N025 N024 2µ
C623 N026 N025 3µ
C624 N027 N026 4µ
C625 N028 N027 5µ
R63 N023 N001 100
C626 N029 N028 1µ
C627 N030 N029 2µ
C628 N031 N030 3µ
C629 N032 N031 4µ
C630 N012 N032 5µ
C631 N010 N011 1µ
C632 N009 N010 2µ
C633 N008 N009 3µ
C634 N007 N008 4µ
C635 N006 N007 5µ
R64 N011 N012 100
C636 N005 N006 1µ
C637 N004 N005 2µ
C638 N003 N004 3µ
C639 N002 N003 4µ
C640 N001 N002 5µ
.tran 0 1m 0 1u
.backanno
.end
